US07285563B2
3-Methylisoquinolin-5-amine
3-Methyl-5-nitroisoquinoline (Description 44; 660 mg, 3.51 mmol) was dissolved in MeOH (30 ml) and PtO2 catalyst (120 mg) was added. The mixture was stirred for 1 hour 45 minutes under a balloon of hydrogen, then the catalyst was filtered off, washing with more methanol. The filtrate was evaporated and purified by flash column chromatography using as eluant 5% methanol in dichloromethane to give the title compound (250 mg).

reactant | 3-Methyl-5-nitroisoquinoline | 3.51 mmol, 660 mg | CC=1N=CC2=CC=CC(=C2C1)[N+](=O)[O-] | C10H8N2O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 30 ml | CO | CH4O
catalyst | PtO2 | 120 mg | O=[Pt]=O
product | 3-Methylisoquinolin-5-amine | 250 mg | CC=1N=CC=2C=CC=C(C2C1)N | C10H10N2
